### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Altitude): `map` and `restrict` lemmas

### PR DESCRIPTION
**Pull request by jsm28**
Add lemmas about `altitude`, `altitudeFoot` and `height` for simplices mapped under an affine isometry or restricted to an affine subspace.

Moves:
- `Submodule.map_orthogonal` -> `Submodule.map_orthogonal_equiv`

---

- [x] depends on: #32016
- [x] depends on: #32017
- [ ] depends on: #32019

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by eric-wieser — APPROVED** [review]
bors d+

Please check you're happy with the new lemma and deprecation I added before merging

File: Mathlib/Geometry/Euclidean/Altitude.lean [hunk 1]
```diff
@@ -81,6 +83,32 @@ theorem vectorSpan_isOrtho_altitude_direction {n : ℕ} (s : Simplex ℝ P n) (i
...
+    (hS : affineSpan ℝ (Set.range s.points) ≤ S) (i : Fin (n + 1)) :
+    haveI := Nonempty.map (AffineSubspace.inclusion hS) inferInstance
+    ((s.restrict S hS).altitude i).map S.subtype = s.altitude i := by
+  rw [eq_comm]
+  convert (s.restrict S hS).altitude_map S.subtypeₐᵢ i
+
+lemma altitude_restrict_eq_comap_subtype {n : ℕ} (s : Simplex ℝ P n) (S : AffineSubspace ℝ P)
+    (hS : affineSpan ℝ (Set.range s.points) ≤ S) (i : Fin (n + 1)) :
+    haveI := Nonempty.map (AffineSubspace.inclusion hS) inferInstance
+    ((s.restrict S hS).altitude i) = (s.altitude i).comap S.subtype := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Altitude.lean]:
```suggestion
    (s.restrict S hS).altitude i = (s.altitude i).comap S.subtype := by
```
